US05208240
Scheme B, Step a: Methyl 4-(t-butylacetylamino)-phenylacetate
Dissolve methyl (4-aminophenyl)acetate (14.9 g, 90.3 mmol) in acetone (300 mL). Add potassium carbonate (13.7 g, 99.3 mmol), potassium iodide (1.47 g, 9.03 mmol) and t-butyl bromoacetate (16 mL, 99.3 mmol). Heat at reflux for 20 hours then remove 200 mL of acetone in vacuo. Dilute the residue with ethyl ether (500 mL), wash with water (2×300 mL) and brine (300 mL). Dry (MgSO4) and evaporate the solvent in vacuo. Purify by flash chromatography to give the title compound.

reactant | methyl (4-aminophenyl)acetate | 90.3 mmol, 14.9 g | NC1=CC=C(C=C1)CC(=O)OC | C9H11NO2
reactant | potassium carbonate | 99.3 mmol, 13.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 9.03 mmol, 1.47 g | [I-].[K+]
reactant | t-butyl bromoacetate | 99.3 mmol, 16 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | acetone | 300 mL | CC(=O)C | C3H6O
product | Methyl 4-(t-butylacetylamino)-phenylacetate | C(C)(C)(C)CC(=O)NC1=CC=C(C=C1)CC(=O)OC | C15H21NO3
